US08440681B2
The mixture of pyrimidin-2-amine (48 mg, 0.50 mmol), 2,4,5-trichloropyrimidine (57 μL, 0.5 mmol), and potassium carbonate (69 mg, 0.5 mmol) in 3 mL of 1,4-dioxane is heated at 110° C. over night. The precipitate is filtered, washed by cold EtOH, and dried in vacuo to afford N-(2,5-Dichloropyrimidin-4-yl)pyrimidin-2-amine; ESMS m/z 242.0 (M+H+).

reactant | pyrimidin-2-amine | 0.50 mmol, 48 mg | N1=C(N=CC=C1)N | C4H5N3
reactant | 2,4,5-trichloropyrimidine | 0.5 mmol, 57 μL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | potassium carbonate | 0.5 mmol, 69 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(2,5-Dichloropyrimidin-4-yl)pyrimidin-2-amine | ClC1=NC=C(C(=N1)NC1=NC=CC=N1)Cl | C8H5Cl2N5
